US04886805
73.5 g of 3-methyl-2-chloroquinoline in 102 ml of hydrazine hydrate are heated under reflux for 3 hours. The reaction mixture is cooled and the solid is filtered off, washed and dried. The crystalline mass obtained is recrystallized from isopropanol to give 50.5 g of 2-hydrazino-3-methylquinoline melting at 128° C.

reactant | 3-methyl-2-chloroquinoline | 73.5 g | CC=1C(=NC2=CC=CC=C2C1)Cl | C10H8ClN
reactant | hydrazine hydrate | 102 ml | O.NN
product | 2-hydrazino-3-methylquinoline | 50.5 g | N(N)C1=NC2=CC=CC=C2C=C1C | C10H11N3
